US08957069B2
5-methyl-7-[4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazin-1-yl]pyrazolo[1,5-a]pyrimidine
To a solution of THF (2 mL) containing 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (274 mg, 1.0 mmol) synthesized in Reference Example 61, 7-chloro-5-methylpyrazolo[1,5-a]pyrimidine (200 mg, 1.2 mmol) and diisopropylethylamine (0.42 mL) were added, and the mixture was heated to reflux for 2 hours. After addition of piperazine (42 mg, 0.50 mmol) thereto, the mixture was further heated to reflux for 1 hour. The reaction solution was diluted with ethyl acetate, and washed with water and saturated saline. The organic layer was dried using magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate 7:3). The obtained solid was recrystallized from ethanol-water to obtain 140 mg of the title compound (yield 35%). Melting point was 180 to 182° C. (ethanol-water).

reactant | 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.0 mmol, 274 mg | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C)C | C17H26N2O
reactant | 7-chloro-5-methylpyrazolo[1,5-a]pyrimidine | 1.2 mmol, 200 mg | ClC1=CC(=NC=2N1N=CC2)C | C7H6ClN3
reactant | diisopropylethylamine | 0.42 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | piperazine | 0.50 mmol, 42 mg | N1CCNCC1 | C4H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-methyl-7-[4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazin-1-yl]pyrazolo[1,5-a]pyrimidine | 140 mg, yield 35% | CC1=NC=2N(C(=C1)N1CCN(CC1)C=1C(=C(C3=C(CC(O3)(C)C)C1C)C)C)N=CC2 | C24H31N5O
